US04808711
In 10 ml of methylene chloride was suspended 0.7 g (1.74 mmole) of 2-(2-amino-1,3-thiazol-4-yl)-2-(1-carbazoyl-1-methylethoxyimino)acetic acid tert-butyl ester, and to the suspension was added 2.16 g (10.6 mmole) of N,O-bis(trimethylsilyl)acetamide to form a solution. To the ice-cooled solution was added 0.488 g (1.9 mmole) of 3,4-diacetoxybenzoic acid chloride and the mixture was stirred for one hour under ice-cooling. The resulting mixture was poured into 150 ml of ether and to the mixture was added a small amount of methanol while stirring. Resulting precipitates were collected by filtration, washed with ether and then dried to obtain 0.96 g of 2-(2-amino-1,3-thiazol-4-yl)-2-{1-[3-(3,4-diacetoxybenzoyl)carbazoyl]-1-methylethoxyimino}acetic acid tert-butyl ester.hydrochloride. (Yield: 97.9%)

reactant | 2-(2-amino-1,3-thiazol-4-yl)-2-(1-carbazoyl-1-methylethoxyimino)acetic acid tert-butyl ester | 1.74 mmole, 0.7 g | C(C)(C)(C)OC(C(=NOC(C)(C)C(NN)=O)C=1N=C(SC1)N)=O | C13H21N5O4S
reactant | N,O-bis(trimethylsilyl)acetamide | 10.6 mmole, 2.16 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 3,4-diacetoxybenzoic acid chloride | 1.9 mmole, 0.488 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1OC(C)=O | C11H9ClO5
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-(2-amino-1,3-thiazol-4-yl)-2-{1-[3-(3,4-diacetoxybenzoyl)carbazoyl]-1-methylethoxyimino}acetic acid tert-butyl ester.hydrochloride | 0.96 g, Yield: 97.9% | Cl.C(C)(C)(C)OC(C(=NOC(C)(C)C(NNC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)=O)C=1N=C(SC1)N)=O | InChI=1S/C24H29N5O9S.ClH/c1-12(30)35-16-9-8-14(10-17(16)36-13(2)31)19(32)27-28-21(34)24(6,7)38-29-18(15-11-39-22(25)26-15)20(33)37-23(3,4)5;/h8-11H,1-7H3,(H2,25,26)(H,27,32)(H,28,34);1H
